US06566356B2
A solution of 0.26 g of N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-4-fluorophenylsulfonamide in 5 cm3 of tetrahydrofuran is added, at room temperature under an argon atmosphere, to a suspension of 20.5 mg of 80% sodium hydride in 10 cm3 of tetrahydrofuran. After stirring for 1 hour at around 20° C., 60 mm3 of iodomethane are added and then after stirring for an additional 16 hours, the suspension is supplemented with 30 cm3 of ethyl acetate and 20 cm3 of distilled water. The organic phase is dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is purified by flash chromatography on silica gel [eluant: cyclohexane/ethyl acetate (90/10 by volume)]. 19 mg of N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-methyl-4-fluorophenylsulfonamide are thus obtained in the form of a white powder [1H NMR spectrum (300 MHz, CDCl3, δ in ppm): 2.69 (s: 3H); 3.02 (split t, J=7 and 2 Hz: 2H); 3.35 (split t, J=7 and 2 Hz: 2H); 3.91 (mt: 1H); 4.27 (s: 1H); from 7.15 to 7.35 (mt: 10H); 7.75 (dd, J=9 and 5 Hz: 2H)].

reactant | N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-4-fluorophenylsulfonamide | 0.26 g | ClC1=CC=C(C=C1)C(N1CC(C1)NS(=O)(=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)Cl | C22H19Cl2FN2O2S
reactant | sodium hydride | 20.5 mg | [H-].[Na+]
reactant | iodomethane | 60 mm3 | IC | CH3I
reactant | ethyl acetate | 30 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
solvent | water | 20 cm3 | O | H2O
product | N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-methyl-4-fluorophenylsulfonamide | 19 mg | ClC1=CC=C(C=C1)C(N1CC(C1)N(S(=O)(=O)C1=CC=C(C=C1)F)C)C1=CC=C(C=C1)Cl | C23H21Cl2FN2O2S
